US08217042B2
Preparation of 1-(4-hydroxybutyl)-3-(3-phenylpyrido[2,3-b]pyrazin-6-yl)urea
360 mg (0.22 mmol) of 1-[4-(tert-butyldimethylsilanyloxy)butyl]-3-(3-phenylpyrido[2,3-b]pyrazin-6-yl)urea were dissolved in 20 ml of dichloromethane and admixed with 5 ml of a 2 molar isopropanolic HCl solution. After stirring at room temperature for 12 h, the reaction mixture was washed with water and dried (Na2SO4). Removal of the solvent under reduced pressure afforded a bright yellow solid.

reactant | 1-[4-(tert-butyldimethylsilanyloxy)butyl]-3-(3-phenylpyrido[2,3-b]pyrazin-6-yl)urea | 0.22 mmol, 360 mg | [Si](C)(C)(C(C)(C)C)OCCCCNC(=O)NC=1C=CC=2C(=NC(=CN2)C2=CC=CC=C2)N1 | C24H33N5O2Si
reactant | HCl | 2 molar | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-hydroxybutyl)-3-(3-phenylpyrido[2,3-b]pyrazin-6-yl)urea | OCCCCNC(=O)NC=1C=CC=2C(=NC(=CN2)C2=CC=CC=C2)N1 | C18H19N5O2
